US09353107B2
Step-iii: 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (150 mg, 0.263 mmol) was deprotected in TFA/DCM (2/5 ml). This afforded 30 mg (19.6% yield) of the titled. 1H NMR (CD3OD, 400 MHz): δ 8.67-8.66 (d, 1H), 8.60 (s, 1H), 8.28 (s, 1H), 7.97 (s, 1H), 7.78 (s, 1H), 7.58-7.54 (m, 2H), 7.47-7.43 (t, 1H), 7.39-7.33 (q, 1H), 7.12-7.10 (d, 1H), 7.05-7.00 (m, 2H), 5.43 (s, 2H), 3.55-3.52 (d, 2H), 3.28-3.16 (m, 3H), 2.21-2.03 (m, 4H). MS: m/z=470.4 (M+1), HPLC: 98.34% in method A.

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.263 mmol, 150 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)C2CCN(CC2)C(=O)OC(C)(C)C | C33H33F2N5O2
solvent | TFA DCM | 2/5 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 19.6% yield | FC=1C=C(C=CC1C1CCNCC1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F | C28H25F2N5
